US07968570B2
CuI (1.9 g, 10 mmol) and potassium fluoride (0.58 g, 10 mmol) were added under an N2 atmosphere to a solution of 4-chloro-2-iodo-6-methyl-benzoic acid methyl ester (2.9 g, 9.4 mmol) and chloro-difluoro-acetic acid methyl ester (1.2 mL, 11 mmol) in DMF (25 mL). The mixture was stirred at 140° C. for 18 h. The reaction was cooled and the solvent evaporated. Silica gel column chromatography using 10% ethyl acetate in hexane afforded 4-chloro-2-trifluoromethyl-6-methyl-benzoic acid methyl ester (1.6 g, 67%). GC-MS: m/z 252 (M−1)+, 221 (M−31)+.

reactant | potassium fluoride | 10 mmol, 0.58 g | [F-].[K+]
reactant | 4-chloro-2-iodo-6-methyl-benzoic acid methyl ester | 9.4 mmol, 2.9 g | COC(C1=C(C=C(C=C1C)Cl)I)=O | C9H8ClIO2
reactant | chloro-difluoro-acetic acid methyl ester | 11 mmol, 1.2 mL | COC(C(F)(F)Cl)=O | C3H3ClF2O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 10 mmol, 1.9 g | [Cu]I
product | 4-chloro-2-trifluoromethyl-6-methyl-benzoic acid methyl ester | 1.6 g, 67% | COC(C1=C(C=C(C=C1C)Cl)C(F)(F)F)=O | C10H8ClF3O2
